US08748466B2
N,N-Dimethy-4-aminopyridine (0.04 g, 0.3 mmol, 0.2 equiv), N-ethyl-N-isopropylpropan-2-amine (0.97 mL, 5.8 mmol, 4.5 equiv), T3P® (50% w/w solution in ethyl acetate, 3.0 mL, 4.96 mmol, 4.0 equiv), and (2R)-4-[5-(2-fluoro-3-methoxyphenyl)isoxazol-3-yl]-2-methyl-2-(methylsulfonyl)butanoic acid (0.46 g, 1.24 mmol, 1.0 equiv) were allowed to stir at room temperature for 30 min. A solution of O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (0.16 g, 1.3 mmol, 1.2 equiv) in ethyl acetate (15 mL) was added, and the reaction was allowed to stir overnight (18 h) at room temperature. Water (40 mL) was added, and the mixture was extracted with ethyl acetate (2×50 mL). The combined organic phases were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The crude material was purified by flash chromatography (25 g silica gel column, 0-100% gradient ethyl acetate in hexanes) to provide (2R)-4-[5-(2-fluoro-3-methoxyphenyl)isoxazol-3-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (0.60 g, 10%). MS (LCMS) m/z 469.1 (M−1).

reactant | N-ethyl-N-isopropylpropan-2-amine | 5.8 mmol, 0.97 mL, 4.5 equiv | C(C)N(C(C)C)C(C)C | C8H19N
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | (2R)-4-[5-(2-fluoro-3-methoxyphenyl)isoxazol-3-yl]-2-methyl-2-(methylsulfonyl)butanoic acid | 1.24 mmol, 0.46 g, 1.0 equiv | FC1=C(C=CC=C1OC)C1=CC(=NO1)CC[C@](C(=O)O)(S(=O)(=O)C)C | C16H18FNO6S
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 1.3 mmol, 0.16 g, 1.2 equiv | O1C(CCCC1)ON | C5H11NO2
catalyst | N,N-Dimethy-4-aminopyridine | 0.3 mmol, 0.04 g, 0.2 equiv | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 40 mL | O | H2O
product | (2R)-4-[5-(2-fluoro-3-methoxyphenyl)isoxazol-3-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.60 g, 10% | FC1=C(C=CC=C1OC)C1=CC(=NO1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C | C21H27FN2O7S
